US08754226B2
To a solution of 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1,4′-bipiperidin-2-one HCl salt (64 mg, 0.15 mmol) and DIEA (0.080 mL, 0.45 mmol) in DMSO (2 mL) was added 2-chloro-5-ethylpyrimidine (26 mg, 0.18 mmol). The reaction was heated at 120° C. overnight. The reaction was cooled to ambient temperature and diluted with water (2 mL) and EtOAc (5 mL). The organic layer was separated and the aqueous washed with EtOAc. The combined organic layers were dried with MgSO4 and concentrated. The crude residue was purified by reverse phase HPLC (5 to 95% acetonitrile in water with 0.1% TFA). The combined fractions were concentrated to remove CH3CN and the pH adjusted to neutral by the addition of NaHCO3. The aqueous layer was extracted with EtOAc. The combined organic layers were dried with MgSO4 and concentrated to give 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1′-(5-ethylpyrimidine-2-yl)-1,4′-bipiperidine-2-one (15 mg, 20%) as an off white solid. Mass spectrum (apci) m/z=495.2 (M+H).

reactant | 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1,4′-bipiperidin-2-one HCl salt | 0.15 mmol, 64 mg | Cl.FC1=C(OC2C(N(CCC2)C2CCNCC2)=O)C=C(C(=C1)S(=O)(=O)C)F
reactant | DIEA | 0.45 mmol, 0.080 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-ethylpyrimidine | 0.18 mmol, 26 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | 2 mL | O | H2O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1′-(5-ethylpyrimidine-2-yl)-1,4′-bipiperidine-2-one | 15 mg, 20% | FC1=C(OC2C(N(CCC2)C2CCN(CC2)C2=NC=C(C=N2)CC)=O)C=C(C(=C1)S(=O)(=O)C)F | C23H28F2N4O4S
